US04284773
To a solution of 4.66 g of 2,4-dichloro-5,6-dimethylthieno[2,3-d]pyrimidine in 150 ml of ethanol-chloroform (1:1 by volume) was slowly added 2.32 g of sodium borohydride with stirring. The mixture was stirred at room temperature for 6 hours and the solvent removed in vacuo. To the solid residue was added 50 ml of water and the insoluble material was filtered, washed with water, dried, and recrystallized from benzene to give 2.05 g of 2-chloro-5,6-dimethyl-3,4-dihydrothieno[2,3-d]pyrimidine, mp 170°-172° C.

reactant | 2,4-dichloro-5,6-dimethylthieno[2,3-d]pyrimidine | 4.66 g | ClC=1N=C(C2=C(N1)SC(=C2C)C)Cl | C8H6Cl2N2S
reactant | sodium borohydride | 2.32 g | [BH4-].[Na+]
solvent | ethanol chloroform | 150 ml | C(C)O.C(Cl)(Cl)Cl
product | 2-chloro-5,6-dimethyl-3,4-dihydrothieno[2,3-d]pyrimidine | 2.05 g | ClC=1NCC2=C(N1)SC(=C2C)C | C8H9ClN2S
